US06921763B2
60% dispersion of sodium hydride in mineral oil (2.37 g, 0.0592 mol) was added to a solution of N-phenyl-N-benzylamine (10.33 g, 0.0564 mol) in anhydrous N,N-dimethylformamide (200 mL) at 0° C. The reaction mixture was warmed up to ambient temperature and stirred for 45 min. Iodomethane (7.99 g, 0.0564 mol) was added dropwise and the stirring at ambient temperature was continued under an atmosphere of nitrogen for 20 hours. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate (250 mL) and water (200 mL). The organic phase was dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica using ethyl acetate/n-heptane (2:98) as mobile phase to yield N-benzyl-N-methyl-N-phenylamine (4.4 g, 0.0223 mol) as a yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | N-phenyl-N-benzylamine | 0.0564 mol, 10.33 g | C1(=CC=CC=C1)NCC1=CC=CC=C1 | C13H13N
reactant | Iodomethane | 0.0564 mol, 7.99 g | IC | CH3I
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | N-benzyl-N-methyl-N-phenylamine | 0.0223 mol, 4.4 g | C(C1=CC=CC=C1)N(C1=CC=CC=C1)C | C14H15N
